US07795249B2
To a solution of 2-{1-[(5-bromo-2-thienyl)carbonyl]-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl}phenol (0.209 g, 0.488 mmol) in MeOH (1 mL), DMF (1 mL), and water (1 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.110 g, 0.567 mmol), tetrakis(triphenylphosphine)palladium(0) (0.032 g, 0.028 mmol) and cesium carbonate (0.318 g, 0.976 mmol). The reaction mixture was subjected to MWI at 100° C. for 15 minutes. A precipitate formed and was filtered and washed with water to give 0.197 grams of crude product as a tan solid. The crude material was purified by column chromatography to give 2-(1-{[5-(1H-pyrazol-4-yl)-2-thienyl]carbonyl}-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (I-45) (0.048 g, 0.116 mmol) as a white solid. LCMS: (FA) ES+ 416.3, ES 414.3. 1H NMR (400 MHz, d6-DMSO) δ: 9.73-9.82 (bs, 1H), 9.11 (s, 1H), 8.78 (d, 1H), 8.54 (d, 1H), 8.12 (s, 2H), 7.96 (d, 1H), 7.74-7.80 (m, 1H), 7.29 (d, 1H), 7.08 (t, 1H), 6.92 (d, 1H), 6.85 (d, 1H), 6.72 (t, 1H), 5.85 (dd, 1H), 3.90 (dd, 1H), and 3.21 (dd, 1H).

reactant | 2-{1-[(5-bromo-2-thienyl)carbonyl]-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl}phenol | 0.488 mmol, 0.209 g | BrC1=CC=C(S1)C(=O)N1N=C(CC1C1=C(C=CC=C1)O)C=1C=NC=CC1 | C19H14BrN3O2S
reactant | water | 1 mL | O | H2O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.567 mmol, 0.110 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 0.976 mmol, 0.318 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.028 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-{[5-(1H-pyrazol-4-yl)-2-thienyl]carbonyl}-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 0.116 mmol, 0.048 g | N1N=CC(=C1)C1=CC=C(S1)C(=O)N1N=C(CC1C1=C(C=CC=C1)O)C=1C=NC=CC1 | C22H17N5O2S
